US09126934B2
Methylene chloride (1000 ml), 160 ml of dimethyl acetamide, 113.2 g of 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4(1H)-one, and 4.8 g of tetrabutylammonium bromide were added to a glass vessel equipped with a stirring device, a thermometer, and a reflux condenser and having a volume of 3000 ml, and the mixture was stirred at room temperature. A 48% aqueous sodium hydroxide solution (50 g) was added dropwise at 25 to 30° C., and the mixture was stirred at the same temperature for one hr. After cooling to 10 to 15° C., 34 g of methyl chloroformate was added dropwise, and a reaction was allowed to proceed at the same temperature for one hr. Water was added to the reaction solution for washing. Methylene chloride was removed by evaporation, 990 ml of methanol was added to the residue, and the mixture was heated to dissolve the residue in methanol. Water (660 ml) was added dropwise thereto to precipitate crystals, and the precipitated solid was collected by a suction filter. The solid was dried in vacuo to give 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4-yl methyl carbonate (124.4 g, yield 95.2%). It was confirmed from the results of measurement of 1H-NMR that the compound thus obtained was a compound of No. 120 described in WO2006/013896 (patent document 1).

reactant | Methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
reactant | 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4(1H)-one | 113.2 g | C(C)C=1NC2=CC(=C(C=C2C(C1C)=O)OC1=CC=C(C=C1)OC(F)(F)F)C | C20H18F3NO3
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
reactant | methyl chloroformate | 34 g | ClC(=O)OC | C2H3ClO2
catalyst | tetrabutylammonium bromide | 4.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | O | H2O
solvent | dimethyl acetamide | 160 ml | CC(=O)N(C)C | C4H9NO
product | 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4-yl methyl carbonate | 124.4 g, yield 95.2% | C(OC1=C(C(=NC2=CC(=C(C=C12)OC1=CC=C(C=C1)OC(F)(F)F)C)CC)C)(OC)=O | C22H20F3NO5
